US08309577B2
A mixture of 4,6-dichloropyrimidine (5.96 g, 40 mmol), 1H-pyrazole (2.72 g, 40.0 mmol), and cesium carbonate (13.03 g, 40.0 mmol) was stirred in DMF (25 mL) at room temperature for 18 h. The reaction was diluted into 100 mL water and extracted with EtOAc. The combined organic layers were concentrated and purified by flash chromatography on a 240 g silica gel cartridge with 0 to 20% ethyl acetate in hexane to yield 4-chloro-6-(1H-pyrazol-1-yl)pyrimidine (4.80 g, 66% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.77 (1H, d, J=0.76 Hz), 8.55 (1H, d, J=2.77 Hz), 7.96 (1H, d, J=1.01 Hz), 7.80 (1H, d, J=1.01 Hz), 6.51 (1H, dd, J=2.64, 1.64 Hz).

reactant | 4,6-dichloropyrimidine | 40 mmol, 5.96 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 1H-pyrazole | 40.0 mmol, 2.72 g | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 40.0 mmol, 13.03 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-chloro-6-(1H-pyrazol-1-yl)pyrimidine | 4.80 g, 66% yield | ClC1=NC=NC(=C1)N1N=CC=C1 | C7H5ClN4
